US07323465B2
n-Propanesulfonic acid (6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide (489 mg) was added to a solution of potassium tert.-butoxide (900 mg) in ethylene glycol (10 ml). The solution was stirred at 100° C. for 7 days. The reaction mixture was then poured onto ice/water and extracted with ethyl acetate. The crude product was purified by chromatography over silicagel with DCM/MeOH=9/1 to give n-propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (390 mg) as a white powder. LC-MS: tR: 3.76, [M+H]+: 352.13.

reactant | n-Propanesulfonic acid (6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide | 489 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)CCC)C1=CC=C(C=C1)C | C14H16ClN3O2S
reactant | potassium tert.-butoxide | 900 mg | CC(C)([O-])C.[K+]
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | n-propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 390 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)CCC)C1=CC=C(C=C1)C | C16H21N3O4S
